US07728013B2
2-methoxy-5-acetyl pyridine (1.51 g, 10 mmol) was treated with 6N HCl at 100° C. for 5 hours. The reaction mixture was neutralized with sodium hydroxide to pH 7 and then extracted several times with DCM. Organic layer was dried over sodium sulfate, evaporated and the residue was crystallized from ethyl acetate to give 5-acetyl-2(1H)-pyridone as a white solid, 1.06 g (78%). This compound (685.7 mg, 5 mmol) was reacted with iodobenzene (0.84 ml, 7.5 mmol) in the presence of CuI (95 mg, 0.5 mmol) and K2CO3 (691 mg, 5 mmol) in DMF (5 ml) at 135° C. overnight. The reaction mixture was diluted with 10% ammonia (15 ml) and extracted with ethyl acetate. The organic extract was washed with saturated sodium chloride, dried over magnesium sulfate and evaporated. Column chromatography (10% ethyl acetate-DCM) afforded 407 mg (38%) of the target compound as a white solid. The 1H NMR spectra was consistent with the structure of Compound 16.

reactant | 2-methoxy-5-acetyl pyridine | 10 mmol, 1.51 g | COC1=NC=C(C=C1)C(C)=O | C8H9NO2
reactant | HCl | 6N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-acetyl-2(1H)-pyridone | C(C)(=O)C=1C=CC(NC1)=O | C7H7NO2
